US06794403B2
2-(4-Hydroxyphenyl)-1,3-benzoxazol-5-ol
The title compound was prepared in substantially the same manner as described in Example 1, from 2,5-dimethoxyaniline, and 4-methoxybenzoyl chloride and was obtained as a light yellow solid, m.p. 264-267° C.; MS m/e 228 (M+H)+.

reactant | 2,5-dimethoxyaniline | COC1=C(N)C=C(C=C1)OC | C8H11NO2
reactant | 4-methoxybenzoyl chloride | COC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO2
product | 2-(4-Hydroxyphenyl)-1,3-benzoxazol-5-ol | OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2)O | C13H9NO3
